US05684151
6-(4-Amino-3,5-dibromophenyl)-4,5-dihydropyridazin-3-one
The title compound was prepared as described in Example 1 starting with hydrazine and 3-(4-amino-3,5-dibromobenzoyl)propionic acid in ethanol to give a solid: mp 212°-214° C.

reactant | hydrazine | NN | H4N2
reactant | 3-(4-amino-3,5-dibromobenzoyl)propionic acid | NC1=C(C=C(C(=O)CCC(=O)O)C=C1Br)Br | C10H9Br2NO3
solvent | ethanol | C(C)O | C2H6O
product | 6-(4-Amino-3,5-dibromophenyl)-4,5-dihydropyridazin-3-one | NC1=C(C=C(C=C1Br)C=1CCC(NN1)=O)Br | C10H9Br2N3O
